US03946019
A mixture of 1-cyano-8-(pyrrol-1-yl)-2-toluene- p-sulphonyl-1,2-dihydroisoquinoline (446.2 g.) and sodium hydride (50% dispersion in mineral oil) (68.7 g.) in dimethylformamide (2,232 cc.) is kept at a temperature of about 20° C. for 16 hours. Crude 1-cyano-8-(pyrrol-1-yl)isoquinoline (261 g.), melting at 178° C., is thus obtained.

reactant | 1-cyano-8-(pyrrol-1-yl)-2-toluene- p-sulphonyl-1,2-dihydroisoquinoline | 446.2 g | C(#N)C1N(C=CC2=CC=CC(=C12)N1C=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C21H17N3O2S
reactant | sodium hydride | 68.7 g | [H-].[Na+]
solvent | dimethylformamide | 2,232 cc | CN(C=O)C | C3H7NO
product | 1-cyano-8-(pyrrol-1-yl)isoquinoline | 261 g | C(#N)C1=NC=CC2=CC=CC(=C12)N1C=CC=C1 | C14H9N3
